US06130217
2-(Thiazol-4-yl)phenol
o-(Bromoacetyl)phenyl acetate (5.0 g, 19.5 mmol) was treated with crude thioformamide (filtrate concentrated in vacuo from reaction of P2S5 (1.1 eq.) and (25 mmol) formamide in THF (30-40° C., 5 hours)) in refluxing acetone (60 mL). After 16 hours the reaction mixture was cooled to about 10° C. and the precipitated HBr salt of 2-(thiazol-4-yl)phenol was recovered. 31%, 1.50 g, LSIMS m/z=178 (MH+).

reactant | o-(Bromoacetyl)phenyl acetate | 19.5 mmol, 5.0 g | C(C)(=O)OC1=C(C=CC=C1)C(CBr)=O | C10H9BrO3
reactant | thioformamide | 25 mmol, 1.1 eq. | C(=S)N | CH3NS
reactant | formamide | 25 mmol | C(=O)N | CH3NO
solvent | acetone | 60 mL | CC(=O)C | C3H6O
product | 2-(Thiazol-4-yl)phenol | S1C=NC(=C1)C1=C(C=CC=C1)O | C9H7NOS
